US04410534
A solution of methyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate (2.0 g., 0.01 moles) in dry xylene (30 ml.) containing 4-fluorobenzoyl chloride (4.5 g., 0.028 moles) is heated at reflux temperature in a nitrogen atmosphere for 20 hours. The solvent is removed in vacuo and the residue is purified by t.l.c. on silica gel using hexane-ethyl acetate (3:1) as the developing solvent. Removal of the solvent gives methyl-3-p-fluorobenzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate which, when crystallized from acetone-hexane exhibits a m.p. of 78°-79° C.

reactant | methyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate | 0.01 moles, 2.0 g | COC(=O)C1C=2N(CCC1)C=CC2 | C10H13NO2
reactant | 4-fluorobenzoyl chloride | 0.028 moles, 4.5 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl-3-p-fluorobenzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate | COC(=O)C1C=2N(CCC1)C(=CC2)C(C2=CC=C(C=C2)F)=O | C17H16FNO3
